US05527791
Allyl 4-allyloxy-3-aminocinnamate was condensed with (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-carboxypyrrolidine by the method described in example 1 for allyl 3-aminocinnamate to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(6-allyloxy-3-(E-2-allyloxycarbonyl-1-ethenyl)phenylcarbamoyl)pyrrolidine.

reactant | Allyl 4-allyloxy-3-aminocinnamate | C(C=C)OC1=C(C=C(C=CC(=O)OCC=C)C=C1)N | C15H17NO3
reactant | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-carboxypyrrolidine | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)C(=O)O | C11H15NO5S
reactant | allyl 3-aminocinnamate | NC=1C=C(C=CC(=O)OCC=C)C=CC1 | C12H13NO2
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(6-allyloxy-3-(E-2-allyloxycarbonyl-1-ethenyl)phenylcarbamoyl)pyrrolidine | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)C(NC1=CC(=CC=C1OCC=C)\C=C\C(=O)OCC=C)=O | C26H30N2O7S
